US05576338
4-(4-Fluorophenyl)-7-bromocoumarin
Following the procedures described for Coumarin 1, Steps 1 to 5, but substituting 3-bromophenol for m-cresol and 4-fluoroiodobenzene for 3-bromofuran, the title compound was obtained.

reactant | Coumarin 1 | CCN(CC)C1=CC2=C(C=C1)C(=CC(=O)O2)C | C14H17NO2
reactant | m-cresol | C1=C(C=CC=C1O)C | C7H8O
reactant | 4-fluoroiodobenzene | FC1=CC=C(C=C1)I | C6H4FI
reactant | 3-bromofuran | BrC1=COC=C1 | C4H3BrO
product | 4-(4-Fluorophenyl)-7-bromocoumarin | FC1=CC=C(C=C1)C1=CC(OC2=CC(=CC=C12)Br)=O | C15H8BrFO2
